US08912208B2
(4-{4-[5-(5-Methylsulfanyl-pyridin-2-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid
The crude (4-{4-[5-(5-Methylsulfanyl-pyridin-2-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester was dissolved in THF/MeOH (4:1, 2.5 mL) and to it was added aqueous LiOH (4M, 0.5 mL). The mixture was stirred at room temperature for 18 hours, then was immediately purified via reverse-phase HPLC to yield the title compound as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.08-1.20 (m, 2 H) 1.44-1.57 (m, 2 H) 1.84 (m, 5 H) 2.16 (d, J=6.82 Hz, 2 H) 2.50 (m, 1 H) 6.91 (d, J=8.59 Hz, 1 H) 7.36 (d, J=8.34 Hz, 2 H) 7.70 (dd, J=8.59, 2.53 Hz, 1 H) 7.91 (d, J=8.34 Hz, 2 H) 7.95 (d, J=8.84 Hz, 1 H) 8.21 (d, J=2.27 Hz, 1 H) 8.33 (dd, J=9.09, 2.53 Hz, 1 H) 8.98 (br. s., 1 H) 9.64 (br. s., 1 H); MS (M+H)+ 434.2.

reactant | (4-{4-[5-(5-Methylsulfanyl-pyridin-2-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC1=NC=C(C=C1)SC)=O | C26H29N3O2S
reactant | LiOH | 4M, 0.5 mL | [Li+].[OH-]
solvent | THF MeOH | 2.5 mL | C1CCOC1.CO
product | (4-{4-[5-(5-Methylsulfanyl-pyridin-2-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid | CSC=1C=CC(=NC1)NC=1C=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O | C25H27N3O2S
